US09169231B2
An enzymatic reaction was initiated by the following steps under 25° C. condition: adding to a 96-well microplate 50 μl of a 4-MUO buffer solution and 25 μl of distilled water (or an aqueous sample solution) for each well; mixing them; and then adding 25 μl of a lipase buffer solution to each well. After a 30-minute reaction, 100 μl of a 0.1M citric acid buffer (pH4.2) was added to terminate the reaction, and the fluorescence of 4-methylumbelliferone (excitation wavelength: 355 nm, fluorescence wavelength: 460 nm) produced by the reaction was measured with a fluorescence plate reader (Fluoroskan Asent CF from Labsystems, Inc.)

reactant | citric acid | 0.1M, pH4.2 | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | water | 25 μl | O | H2O
product | 4-methylumbelliferone | CC1=CC(=O)OC2=C1C=CC(=C2)O | C10H8O3
